US06452044B2
Preparation of dimethyl 4-trifluoromethanesulfonyloxy-1.3-benzenedicarboxylate
To a solution of dimethyl 4-hydroxy-isophthalate (0.850 g, 4.04 mmol) in CH2Cl2 (15 mL) were added triethylamine (0.6 mL, 4.3 mmol) and triflic anhydride (0.8 mL, 4.76 mmol) at 0° C., and the mixture was stirred at 0° C. for 18 hours. The solvent was evaporated and the residue was diluted with ether (30 mL). The organic solution was washed with 1 N HCl (30 mL×3), dried over MgSO4, and concentrated to give 1.30 g of dark yellow oil (93% yield).

reactant | dimethyl 4-hydroxy-isophthalate | 4.04 mmol, 0.850 g | OC1=C(C=C(C(=O)OC)C=C1)C(=O)OC | C10H10O5
reactant | triethylamine | 4.3 mmol, 0.6 mL | C(C)N(CC)CC | C6H15N
reactant | triflic anhydride | 4.76 mmol, 0.8 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | dimethyl 4-trifluoromethanesulfonyloxy-1.3-benzenedicarboxylate | 1.30 g, 93% yield | FC(S(=O)(=O)OC1=C(C=C(C=C1)C(=O)OC)C(=O)OC)(F)F | C11H9F3O7S
